US08871753B2
Step A: [4-Chloro-19-oxo-18-oxa-2,6,8,20,25-pentaazapentacyclo[14.6.1.1(3,7).1(9,13).0(17,21)]pentacosa-1(23),3(25),4,6,9(24),10,12,16,21-nonaen-20-yl]aceticacid
A solution of methyl [4-chloro-19-oxo-18-oxa-2,6,8,20,25-pentaazapentacyclo[14.6.1.1(3,7).1(9,13).0(17,21)]pentacosa-1(23),3(25),4,6,9(24),10,12,16,21-nonaen-20-yl]acetate (0.23 g, 0.51 mmol) in dichloromethane (15 mL) at −78° C. was treated with 1 M of boron tribromide in dichloromethane (1.5 mL, 1.5 mmol) and stirred at 20° C. for 16 h. The reaction mixture was cooled to 0° C., treated with additional 1 M of boron tribromide in dichloromethane (1.5 mL, 1.5 mmol), and stirred at 20° C. for 6 h. The reaction mixture was cooled to 0° C., quenched with 0.5 M HCl (10 mL) dropwise, concentrated and filtered. The brown solid that was collected was washed with water and dried. This material was diluted with dichloromethane (20 mL), cooled to 0° C., treated with 1 M of boron tribromide in dichloromethane (1.5 mL, 1.5 mmol), and stirred at 20° C. for 24 h. The reaction mixture was cooled to 0° C., quenched with 0.5 M HCl (10 mL) dropwise, concentrated and filtered. The brown solid that was collected was washed with water and dried to give the desired product (0.15 g, 67%) as a tan solid. LCMS for C21H17ClN5O4 (M+H)+: m/z=438.0.

reactant | methyl [4-chloro-19-oxo-18-oxa-2,6,8,20,25-pentaazapentacyclo[14.6.1.1(3,7).1(9,13).0(17,21)]pentacosa-1(23),3(25),4,6,9(24),10,12,16,21-nonaen-20-yl]acetate | 0.51 mmol, 0.23 g | ClC=1C=2NC=3C=C4N(C(OC4=C(CCC4=CC=CC(NC(=NC1)N2)=C4)C3)=O)CC(=O)OC | C22H18ClN5O4
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 mmol, 1.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 mmol, 1.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 mmol, 1.5 mL | ClCCl | CH2Cl2
product | [4-Chloro-19-oxo-18-oxa-2,6,8,20,25-pentaazapentacyclo[14.6.1.1(3,7).1(9,13).0(17,21)]pentacosa-1(23),3(25),4,6,9(24),10,12,16,21-nonaen-20-yl]aceticacid | 0.15 g, 67% | ClC=1C=2NC=3C=C4N(C(OC4=C(CCC4=CC=CC(NC(=NC1)N2)=C4)C3)=O)CC(=O)O | C21H16ClN5O4
